US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(3-hydroxyazetidin-1-yl)-2-oxoethyl]amide
2-(S)-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl)propionic acid (100 mg, 0.28 mmol), 3-hydroxyazetidine hydrochloride (Heterocycles, 2002, 56(1–2), 433–442; 30 mg, 0.28 mmol) and HOBt (37 mg, 0.28 mmol) were dissolved in DMF (5 ml) and DIPEA (0.14 ml, 0.83 mmol). After 5 min, EDCI (69 mg, 0.36 mmol) was added and the reaction mixture stirred at rt for 16 h. The solvent was removed in vacuo and the residue triturated with water. Purification by chromatography on silica gel eluting with methanol:dichloromethane (1:49 to 3:97) gave the title compound as a yellow solid. δH (CD3OD): 3.08–3.21 (2H, m), 3.58–3.63 (0.5H, m), 3.84–3.91 (0.5H, m), 4.03–4.09 (0.5H, m), 4.25–4.32 (0.5H, m), 4.38–4.94 (4H, m), 7.03–7.12 (2H, m), 7.15–7.19 (1H, m), 7.30–7.38 (2H, m), 7.68 (1H, s), 8.59 (1H, s); RT=3.32 min.

reactant | 2-(S)-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-3-(4-fluorophenyl)propionic acid | 0.28 mmol, 100 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)F | C17H13ClFN3O3
reactant | 3-hydroxyazetidine hydrochloride | 0.28 mmol, 30 mg | Cl.OC1CNC1
reactant | HOBt | 0.28 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.83 mmol, 0.14 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.36 mmol, 69 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(3-hydroxyazetidin-1-yl)-2-oxoethyl]amide | FC1=CC=C(C[C@@H](C(=O)N2CC(C2)O)NC(=O)C2=CC=3C(=CN=C(C3)Cl)N2)C=C1 | C20H18ClFN4O3
